US09359381B2
Step 4: 7-(4-((tert-Butyldimethylsilyl)oxy)-1-(4-chlorothiazol-2-yl)-3-hydroxybutyl)-5-(3-fluorophenyl)-1,3-dimethyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione
tert-Butyldimethylsilyl chloride (309 mg, 2.047 mmol) was added to a solution of 7-(1-(4-chlorothiazol-2-yl)-3,4-dihydroxybutyl)-5-(3-fluorophenyl)-1,3-dimethyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione (817 mg, 1.706 mmol), imidazole (232 mg, 3.41 mmol) and DMAP (20.84 mg, 0.171 mmol) in DMF (15 mL). The mixture was stirred at room temperature for 50 mins. A further portion of tert-butyldimethylsilyl chloride (100 mg, 0.662 mmol) was added and the mixture stirred for a further 1 hour. The reaction mixture was diluted with EtOAc and washed with 0.1M HCl(aq) (1×) and brine (3×). The organic phase was dried over sodium sulfate and evaporated under vacuum. Purification by chromatography on silica, eluting with 0-60% EtOAc/hexane, afforded the title compound as a mixture of diastereomers.

reactant | tert-Butyldimethylsilyl chloride | 2.047 mmol, 309 mg | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | 7-(1-(4-chlorothiazol-2-yl)-3,4-dihydroxybutyl)-5-(3-fluorophenyl)-1,3-dimethyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione | 1.706 mmol, 817 mg | ClC=1N=C(SC1)C(CC(CO)O)C=1NC(=C2C1N(C(N(C2=O)C)=O)C)C2=CC(=CC=C2)F | C21H20ClFN4O4S
reactant | imidazole | 3.41 mmol, 232 mg | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 0.662 mmol, 100 mg | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
catalyst | DMAP | 0.171 mmol, 20.84 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 7-(4-((tert-Butyldimethylsilyl)oxy)-1-(4-chlorothiazol-2-yl)-3-hydroxybutyl)-5-(3-fluorophenyl)-1,3-dimethyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione | [Si](C)(C)(C(C)(C)C)OCC(CC(C=1SC=C(N1)Cl)C=1NC(=C2C1N(C(N(C2=O)C)=O)C)C2=CC(=CC=C2)F)O | C27H34ClFN4O4SSi
